US06143743
Preparation of 9-Butyl-8-ethyl-6-(2,4,6-trimethylphenyl)purine
A solution of 8-ethyl-6-(2,4,6-trimethylphenyl)purine (200 mg, 0.75 mmol) in anhydrous dimethylfomamide (5 mL) was cooled to 0° C., and treated with sodium hydride dispersion in mineral oil (72 mg 50% w/w, 1.50 mmol). After 1 hour, bromobutane (0.10 mL, 0.90 mmol) was added by syringe, and the mixture was allowed to stir for 12 hours. It was poured into ethyl acetate (120 mL), and was washed with water (3×120 mL) and brine (100 mL). The aqueous layers were back-extracted in sequence with ethyl acetate (120 mL), and the extracts were combined, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was separated by column chromatography (silica gel, 20:80 ethyl acetate-hexane) to afford the title product as a viscous oil (64.2 mg, 0.20 mmol, 27%). TLC R, 0.20 (30:70 ethyl acetate-hexane). 1H NMR (300 MHz, CDCl3): d 8.96 (1H, s), 6.95 (2H, s), 4.25 (2H, t, J=7.5 Hz), 2.93 (2H, q, J=7.7 Hz), 2.32 (3H, s), 2.04 (6H, s), 1.91-1.86 (2H, m), 1.50-1.38 (2H, m), 1.39 (3H, t, J=7.7 Hz), 1.01 (3H, t, J=7.5 Hz). MS(NH3 -CI): m/e 325 (3), 324 (23), 323 (100).

reactant | 8-ethyl-6-(2,4,6-trimethylphenyl)purine | 0.75 mmol, 200 mg | C(C)C1=NC2=NC=NC(=C2N1)C1=C(C=C(C=C1C)C)C | C16H18N4
reactant | sodium hydride | [H-].[Na+]
reactant | bromobutane | 0.90 mmol, 0.10 mL | BrCCCC | C4H9Br
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | 9-Butyl-8-ethyl-6-(2,4,6-trimethylphenyl)purine | 0.20 mmol, 64.2 mg, 27% | C(CCC)N1C2=NC=NC(=C2N=C1CC)C1=C(C=C(C=C1C)C)C | C20H26N4
